US05472967
6-butyl-2-(2-phenylethyl)-5-[[2'-(1H-tetrazol-5-Yl)[1,1-biphenyl]-4-yl]methyl]-pyrimidin-4(1H)-one.
methyl 3-oxo-2-[[2'-(1-triphenylmethyl-1H-tetrazol-5yl)[1,1'-biphenyl]-4-yl]methyl]heptanoate. To a solution of 0.97 g of potassium 1,1-dimethylethylate in 15 ml of dimethylformamide, chilled on an ice bath, under an atmosphere of argon, a solution of 1.3 g of methyl 3-oxoheptanoate in 13 ml of dimethylformamide is added, followed by 1.67 g of lithium bromide and a solution of 5 g of 5-[4-(bromomethyl)[1,1'-biphenyl]-2-yl]-1-triphenylmethyl-1H-tetrazole in 25 ml of dimethylformamide. The reaction mixture is stirred for 5 hours at room temperature and then diluted with 300 ml of ether. The mixture is washed twice with 100 ml of water and then with 100 ml of a saturated aqueous solution of ammonium chloride. It is dried on magnesium sulfate and evaporated in vacuo to obtain 4.6 g of the product in the form of a yellow oil used as such in the following step.

reactant | methyl 3-oxo-2-[[2'-(1-triphenylmethyl-1H-tetrazol-5yl)[1,1'-biphenyl]-4-yl]methyl]heptanoate | O=C(C(C(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCC | C41H38N4O3
reactant | potassium | 0.97 g | [K] | K
reactant | methyl 3-oxoheptanoate | 1.3 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | lithium bromide | 1.67 g | [Br-].[Li+]
reactant | 5-[4-(bromomethyl)[1,1'-biphenyl]-2-yl]-1-triphenylmethyl-1H-tetrazole | 5 g | BrCC1=CC(=C(C=C1)C1=CC=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-butyl-2-(2-phenylethyl)-5-[[2'-(1H-tetrazol-5-Yl)[1,1-biphenyl]-4-yl]methyl]-pyrimidin-4(1H)-one | 4.6 g | C(CCC)C1=C(C(N=C(N1)CCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C30H30N6O
